US08048887B2
Ethyl 2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylate
To a stirred solution of zinc chloride (8.39 g, 1.14 mmol, 1 eq) in toluene at ambient temperature, ethyl 3-(4-fluorophenyl)-3-oxopropanoate (13 g, 2.74 mmol, 1 eq) was added and stirred at 70° C. for 15 min. Benzoquinone (6.66 g, 0.72 mmol, 1 eq) was added portion wise into the reaction mixture and stirred at the same temperature for 15-20 min. Dean-stark apparatus was assembled and the reaction mixture was heated at 140° C. for 12 h and cooled to ambient temperature. Reaction completion was judged by TLC. EtOAc was added to the reaction mass and filtered through the filter paper, to remove the inorganic material. Brine was added to the reaction mixture (filtrate) and extracted, dried over sodium sulphate and concentrated to get the crude material. Further it was purified by column chromatography using 10% EtOAc/Hexane system. Yield: 8.0 g (43%). 1H NMR (400 MHz, CDCl3): δ 1.38-1.42 (t, 3H, J=7.14 Hz), 4.37-4.42 (q, 2H, J=7.13 Hz), 5.2 (br s, 1H), 6.87-6.9 (q, 1H, J=3.81 Hz), 7.14-7.18 (q, 2H, J=5.82 Hz), 7.36-7.39 (d, 1H, J=8.80 Hz), 7.50-7.51 (d, 1H, J=2.56 Hz), 8.00-8.03 (m, 2H). LCMS: (ES+) m/z=301 (M+H).

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropanoate | 2.74 mmol, 13 g, 1 eq | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | Benzoquinone | 0.72 mmol, 6.66 g, 1 eq | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride | 1.14 mmol, 8.39 g, 1 eq | [Cl-].[Zn+2].[Cl-]
product | Ethyl 2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylate | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C=C2)O | C17H13FO4
